US08957203B2
Step 1: Preparation of (2R,6S,7R,9R,13aS,14aR,16aS,Z)-6-amino-N-(1-(fluoromethyl)cyclopropylsulfonyl)-2-(7-methoxyquinoxalin-2-yloxy)-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxamide hydrochloride
A solution of tert-butyl ((2R,6S,7R,9R,13aS,14aR,16aS,Z)-14a-(((1-(fluoromethyl)cyclopropyl)sulfonyl)carbamoyl)-2-((7-methoxyquinoxalin-2-yl)oxy)-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecin-6-yl)carbamate (120 mg, 0.15 mmol) in 4M HCl in dioxane (10 ml 4 M solution) was stirred at room temperature for 2 h. The solvent was evaporated under reduced pressure to get crude compound (100 mg, 95%) as brown solid. The crude compound was washed with diethyl ether and taken to the next step without further purification. 1H NMR (400 MHz, CD3OD): δ ppm 9.19 (s, 1H) 8.26-8.34 (m, 2H) 7.90 (d, J=8.78 Hz, 2H) 7.26-7.34 (m, 3H) 6.02 (br. s., 1H) 5.58-5.67 (m, 1H) 5.04 (t, J=9.54 Hz, 1H) 4.59-4.71 (m, 2H) 4.33-4.53 (m, 1H) 4.12-4.26 (m, 2H) 3.98 (s, 3H) 3.73-3.81 (m, 2H) 3.66-3.71 (m, 2H) 2.77-2.97 (m, 2H) 2.42-2.75 (m, 3H) 1.91-2.11 (m, 2H) 1.67-1.78 (m, 2H) 1.44-1.62 (m, 2H) 1.21-1.42 (m, 5H) 1.01-1.15 (m, 5H) 0.92 (br. s., 1H): MS: MS m/z 687.4 (M+−36).

reactant | tert-butyl ((2R,6S,7R,9R,13aS,14aR,16aS,Z)-14a-(((1-(fluoromethyl)cyclopropyl)sulfonyl)carbamoyl)-2-((7-methoxyquinoxalin-2-yl)oxy)-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecin-6-yl)carbamate | 0.15 mmol, 120 mg | FCC1(CC1)S(=O)(=O)NC(=O)[C@]12NC([C@H]3N(C([C@H]([C@@H](C[C@@H](CC\C=C/[C@@H]1C2)C)C)NC(OC(C)(C)C)=O)=O)C[C@@H](C3)OC3=NC2=CC(=CC=C2N=C3)OC)=O | C38H51FN6O9S
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 4 M, 10 ml | O1CCOCC1 | C4H8O2
product | (2R,6S,7R,9R,13aS,14aR,16aS,Z)-6-amino-N-(1-(fluoromethyl)cyclopropylsulfonyl)-2-(7-methoxyquinoxalin-2-yloxy)-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxamide hydrochloride | 100 mg, 95% | Cl.N[C@H]1[C@@H](C[C@@H](CC\C=C/[C@H]2[C@](NC([C@H]3N(C1=O)C[C@@H](C3)OC3=NC1=CC(=CC=C1N=C3)OC)=O)(C2)C(=O)NS(=O)(=O)C2(CC2)CF)C)C | InChI=1S/C33H43FN6O7S.ClH/c1-19-6-4-5-7-21-15-33(21,31(43)39-48(44,45)32(18-34)10-11-32)38-29(41)26-14-23(17-40(26)30(42)28(35)20(2)12-19)47-27-16-36-24-9-8-22(46-3)13-25(24)37-27;/h5,7-9,13,16,19-21,23,26,28H,4,6,10-12,14-15,17-18,35H2,1-3H3,(H,38,41)(H,39,43);1H/b7-5-;/t19-,20-,21-,23-,26+,28+,33-;/m1./s1
